US08110687B2
A suspension of 5-chloro-1,8-naphthyridin-2(1H)-one (0.050 g, 0.00028 mol), 7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (0.080 g, 0.00042 mol), and cesium carbonate (0.270 g, 0.000829 mol) in DMF (1 mL) was subjected to microwave heating (180° C.) for 15 min. The reaction mixture was dissolved in water and then acidified to pH of 2 with 1N HCl. The mixture was extracted with EtOAc (4×). The combined organic solutions were dried over MgSO4, filtered, and concentrated. The residue was triturated with DCM and hexanes to produce 7-[(7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid as a white solid (0.066 g, 71%). LCMS: (FA) ES+ 337.3.

reactant | 5-chloro-1,8-naphthyridin-2(1H)-one | 0.00028 mol, 0.050 g | ClC1=C2C=CC(NC2=NC=C1)=O | C8H5ClN2O
reactant | 7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 0.00042 mol, 0.080 g | OC1=CC=C2CCC(CC2=C1)C(=O)O | C11H12O3
reactant | cesium carbonate | 0.000829 mol, 0.270 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[(7-oxo-7,8-dihydro-1,8-naphthyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 0.066 g, 71% | O=C1C=CC=2C(=CC=NC2N1)OC1=CC=C2CCC(CC2=C1)C(=O)O | C19H16N2O4
